US05051422
4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 34, react N-(4-aminophenyl)-4-(4-ethoxyphenyl)-N-(2-methoxyethyl)-1-(phenylmethyl)-2-piperazinecarboxamide with glyceraldehyde, acetaldehyde and ammonium hydroxide to obtain the title compound.

reactant | N-(4-aminophenyl)-4-(4-ethoxyphenyl)-N-(2-methoxyethyl)-1-(phenylmethyl)-2-piperazinecarboxamide | NC1=CC=C(C=C1)N(C(=O)C1N(CCN(C1)C1=CC=C(C=C1)OCC)CC1=CC=CC=C1)CCOC | C29H36N4O3
reactant | glyceraldehyde | O=CC(O)CO | C3H6O3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide | C(C)OC1=CC=C(C=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N(C1=CC=C(C=C1)N1C(=NC=C1)C)CCOC | C33H39N5O3
